US07888345B2
Step 1: Preparation of [(R)-1-(2-Oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-ylcarbamoyl)-2-(2-trifluoromethyl-phenyl)-ethyl]-carbamic acid tert-butyl Ester
To a solution of racemic 3-amino-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (0.100 g, 0.57 mmol) in dichloromethane (5.0 mL) were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.218 g, 1.13 mmol), 1-hydroxybenzotriazole (0.153 g, 1.13 mmol), diisopropylethylamine (0.20 mL, 1.13 mmol) and N-Boc-D-2-trifluoromethyl phenylalanine (0.189 g, 0.57 mmol). The resulting mixture was stirred at room temperature for 18 hours, then diluted with H2O and extracted with ethyl acetate. The organic extracts were combined, dried over MgSO4, filtered and concentrated in vacuo to give an oil that was purified via prepatory thin-layer chromatography on silica gel (50% ethyl acetate/hexanes) to give the desired product.

reactant | racemic 3-amino-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 0.57 mmol, 0.100 g | NC1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.13 mmol, 0.218 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.13 mmol, 0.153 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 1.13 mmol, 0.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-Boc-D-2-trifluoromethyl phenylalanine | 0.57 mmol, 0.189 g | CC(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1C(F)(F)F)C(=O)O | C15H18F3NO4
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | [(R)-1-(2-Oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-ylcarbamoyl)-2-(2-trifluoromethyl-phenyl)-ethyl]-carbamic acid tert-butyl Ester | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC=C1)C(F)(F)F)C(NC1CCC2=C(NC1=O)C=CC=C2)=O)=O | C25H28F3N3O4
